US04371720
Trans-3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(2-propenyl)cyclohexanone ethylene ketal
A mixture of 17.0 g. (38.1 mmoles) of trans-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(2-propenyl)cyclohexanone, 47.2 g. (0.762 mole) ethylene glycol and 250 mg. of p-toluenesulfonic acid monohydride in 200 ml. of benzene was heated at reflux for 3 hours with a Dean-Stark trap. The reaction was cooled and added to 200 ml. 1 N sodium hydroxide, 100 ml. ether and 100 ml. pentane. The organic extract was washed twice with 200 ml. portions of water, twice with 200 ml. portions of saturated sodium chloride, dried over magnesium sulfate and evaporated (aspirator) giving a quantitative yield of the title compound.

reactant | trans-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(2-propenyl)cyclohexanone | 38.1 mmoles | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)[C@@H]1CC(CC[C@H]1CC=C)=O | C31H42O2
reactant | ethylene glycol | 0.762 mole | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydride | C1(=CC=C(C=C1)S(=O)=O)C | C7H8O2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | pentane | CCCCC | C5H12
solvent | ether | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Trans-3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(2-propenyl)cyclohexanone ethylene ketal | quantitative yield | C1COC2(C[C@H]([C@@H](CC2)CC=C)C2=C(C=C(C=C2)C(CCCCCC)(C)C)OCC2=CC=CC=C2)O1 | C33H46O3
